US04127646
To a refluxing mixture of 0.96 g. (0.0045 mol) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in 35 ml. of methanol was added a solution of 1 g. (0.0045 mol) of 3,5-bis-acetamidoaniline (prepared as above) in 15 ml. of methanol. After three hours at reflux, the reaction mixture was cooled and filtered to yield 5-acetyl-4-hydroxy-3-[1-(3,5-bis-acetamidophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 265°-267° C. (dec.).

reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | 0.0045 mol | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
reactant | 3,5-bis-acetamidoaniline | 0.0045 mol | C(C)(=O)NC=1C=C(N)C=C(C1)NC(C)=O | C10H13N3O2
solvent | methanol | CO | CH4O
product | 5-acetyl-4-hydroxy-3-[1-(3,5-bis-acetamidophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC(=CC(=C1)NC(C)=O)NC(C)=O)O | C19H19N3O7
